US08633173B2
[5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (125 mg, 0.43 mmol) and 1-(4-bromobenzyl)-4-methylpiperazine (129 mg, 0.48 mmol) in a manner analogous to Example 77 to yield [5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine (82 mg, 40%) as a yellow powder following purification on a 4 g Isco silica gel column using methanol in dichloromethane (0-20%) as eluent. MP=207-208° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.64 (s, 1H), 8.33 (d, J=8.0 Hz, 2H), 8.14 (d, J=8.0 Hz, 2H), 7.68 (m, 2H), 7.61 (d, J=8.6 Hz, 2H), 7.30 (d, J=7.0 Hz, 1H), 7.18 (d, J=7.5 Hz, 2H), 3.40-3.33 (m, 5H), 2.46-2.18 (m, 8H), 2.14 (s, 3H). MS=477 (MH)+.

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.43 mmol, 125 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromobenzyl)-4-methylpiperazine | 0.48 mmol, 129 mg | BrC1=CC=C(CN2CCN(CC2)C)C=C1 | C12H17BrN2
product | [5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine | 82 mg, 40% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)CN2CCN(CC2)C | C25H28N6O2S
